US09144239B2
Step 6: Preparation of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-9-methyl-2-oxo-7,8-dipropoxy-1,5-dioxonan-3-yl]carbamate (compound 137)
To a solution of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-7,8-diallyloxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate (170 mg, 0.350 mmol) in EtOAc (3 mL) in a 50 mL high pressure reactor with a stir bar was added 5% Pd/C (20.0 mg, 9.40 μmol). After the reactor was sealed, it was purged with H2 (4×), and charged to ˜600 psi with H2 at room temperature. The reaction mixture was warmed to 40° C. and stirred for 2 h. The reaction mixture was filtered through a pad of Celite® and the filtrate concentrated to provide the title compound as a colorless oil (170 mg, 99%): 1H NMR (400 MHz, CDCl3) δ 5.21 (dd, J=8.9, 4.2 Hz, 1H), 4.77 (dq, J=9.3, 6.2 Hz, 1H), 4.26 (dd, J=12.1, 4.2 Hz, 1H), 3.92 (dd, J=12.1, 8.9 Hz, 1H), 3.86-3.77 (m, 2H), 3.60-3.41 (m, 4H), 3.29-3.12 (m, 2H), 1.67-1.52 (m, 2H), 1.49 (s, 19H), 1.42 (d, J=6.4 Hz, 3H), 0.92 (td, J=7.4, 2.8 Hz, 7H); 13C NMR (101 MHz, CDCl3) δ 169.04, 152.59, 84.88, 83.40, 82.95, 75.71, 75.41, 72.78, 72.65, 72.55, 57.88, 27.91, 23.48, 23.27, 18.62, 10.59, 10.57; ESIMS m/z 513.3 ([M+Na]+).

reactant | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-7,8-diallyloxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate | 0.350 mmol, 170 mg | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OCC=C)OCC=C)C)=O | C24H39NO9
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 9.40 μmol, 20.0 mg | [Pd] | Pd
product | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-9-methyl-2-oxo-7,8-dipropoxy-1,5-dioxonan-3-yl]carbamate | 170 mg, 99% | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OCCC)OCCC)C)=O | C24H43NO9
